US04178169
To a stirred solution containing 7.4 g. (0.020 mole) of ethyl 2-[4-(2-trifluoromethylphenylthio)phenoxy]propionate and a catalytic amount of sulfuric acid (3 drops) in 50 ml of glacial acetic acid is added a solution containing 2.23 g. (0.021 mole) of 32% hydrogen peroxide in 10 ml. of glacial acetic acid over a period of several minutes at 25°. The resultant solution is stirred for 24 hours under ambient conditions, at which time the reaction is essentially complete. After the reaction mixture is treated with sodium bisulfite to destroy any excess peroxide the solvent is removed in vacuo at 40° and the residue taken-up in ether. The ethereal solution is washed with a 5% potassium carbonate solution until basic, water until neutral, a saturated sodium chloride solution, dried with magnesium sulfate, and concentrated in vacuo to give 6.85 g. of material. The last traces of solvent are removed by exposure to high vacuum (0.1 mm) at 70° to afford ethyl 2-[4-(2-trifluoromethylphenylsulfinyl)phenoxy]propionate.

reactant | ethyl 2-[4-(2-trifluoromethylphenylthio)phenoxy]propionate | 0.020 mole | FC(C1=C(C=CC=C1)SC1=CC=C(OC(C(=O)OCC)C)C=C1)(F)F | C18H17F3O3S
reactant | hydrogen peroxide | 0.021 mole | OO | H2O2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-[4-(2-trifluoromethylphenylsulfinyl)phenoxy]propionate | FC(C1=C(C=CC=C1)S(=O)C1=CC=C(OC(C(=O)OCC)C)C=C1)(F)F | C18H17F3O4S
